US04769440
A 45.46 gram portion of 4-(1-(4-aminophenyl)-1-methylethyl)phenol (0.20 mole) and 500 milliliters of acetic acid were added to a reactor and maintained under a nitrogen atmosphere with stirring. The stirred solution was maintained at 25° C., then 19.61 grams of maleic anhydride (0.20 mole) dissolved in 100 milliliters of acetic acid was added to the reactor and heating to a reflux commenced. The 126° C. reflux temperature was maintained for 15 hours (54,000 s), then the product was dried under vacuum by rotary evaporation at 100° C. for 60 minutes (3600 s). The crude product was dissolved in 250 milliliters of o-dichlorobenzene at 120° C. and then cooled to 25° C. The light yellow colored solution was decanted away from a brown colored oil layer and dried under vacuum by rotary evaporation at 100° C. for 60 minutes (3600 s) to provide 31.4 grams of 4-(1-(4-(2,5-dihydro-2,5-dioxo-1H-pyrrol-1-yl)phenyl-1-methyl-ethyl)phenol as a bright yellow colored powder. Infrared spectrophotometric analysis of a film sample of the product confirmed the product structure.

reactant | 4-(1-(4-aminophenyl)-1-methylethyl)phenol | 0.20 mole | NC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H17NO
reactant | maleic anhydride | 0.20 mole, 19.61 grams | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | acetic acid | 100 milliliters | C(C)(=O)O | C2H4O2
reactant | acetic acid | 500 milliliters | C(C)(=O)O | C2H4O2
product | 1-(4-(2,5-dihydro-2,5-dioxo-1H-pyrrol-1-yl)phenyl-1-methyl-ethyl)phenol | O=C1N(C(C=C1)=O)C1=CC=C(C=C1)C(C)(C)C1(CC=CC=C1)O | C19H19NO3
